US06140351
Into a solution of N-(5-chloropyridin-2-yl)-2-nitro-3,5-dichlorobenzamide (4.0 g, 12 mmol) in dimethyl sulfoxide (60 mL) was bubbled an excess of dimethyl amine gas. The mixture was sealed in a pressure tube and heated at 50° C. After 3 hours, the mixture was cooled to ambient temperature, then poured into water, and extracted with methylene chloride. The combined organic extracts were dried over MgSO4, and concentrated in vacuo to afford 3.8 g (93% yield) of N-(5-chloropyridin-2-yl)-2-nitro-3-dimethylamino-5-chlorobenzamide; NMR (CDCl3) 9.6 (s, 1), 8.2 (d, 1), 7.8 (d, 1), 7.7 (dd, 1), 7.1 (d, 1), 6.9 (d, 1), 2.8 (s, 6) ppm.

reactant | N-(5-chloropyridin-2-yl)-2-nitro-3,5-dichlorobenzamide | 12 mmol, 4.0 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-])=O | C12H6Cl3N3O3
reactant | dimethyl amine | CNC | C2H7N
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | N-(5-chloropyridin-2-yl)-2-nitro-3-dimethylamino-5-chlorobenzamide | 3.8 g, 93% yield | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)N(C)C)[N+](=O)[O-])=O | C14H12Cl2N4O3
